US07432299B2
(2S,4S)-4-(3-Fluoro-benzyl)-pyrrolidine-2-carboxylic acid mono hydrochloride salt
4-(3-Fluoro-benzyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl -cyclohexyl) ester (Preparation 3, 0.91 g, 1.96 mmol) was dissolved in toluene (2 ml). 6N hydrochloric acid (50 ml) was added and stirred at reflux for 18 h. The reaction mixture was cooled to room temperature and extracted with ethyl acetate (3×20 ml). The aqueous layer was concentrated by evaporated under reduced pressure to give the title compound (417 mg, 81%) as a white solid. 1H-NMR showed a 7:1 ratio of cis:trans diastereoisomers so the product was recrystallised from isopropyl alcohol to give the title compound (170 mg, 65%) in a ratio of 14:1 cis:trans as determined by NMR.

reactant | 4-(3-Fluoro-benzyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl -cyclohexyl) ester | 1.96 mmol, 0.91 g | C(C)(C)C1C(CC(CC1)C)OC(=O)C1N(CC(C1)CC1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C27H40FNO4
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,4S)-4-(3-Fluoro-benzyl)-pyrrolidine-2-carboxylic acid mono hydrochloride salt | 417 mg, 81% | Cl.FC=1C=C(C[C@H]2C[C@H](NC2)C(=O)O)C=CC1 | InChI=1S/C12H14FNO2.ClH/c13-10-3-1-2-8(5-10)4-9-6-11(12(15)16)14-7-9;/h1-3,5,9,11,14H,4,6-7H2,(H,15,16);1H/t9-,11-;/m0./s1
